US04311698
A solution of 29.0 g (70 mmol) of N,N'-bis(benzyloxycarbonyl)-L-lysine [Helv. Chem. Acta, 41, 1778 (1958)] in 200 ml of dichloromethane is stirred at -10° and 7.2 g (70 mmol) of N-methylmorpholine is added. The temperature is lowered to -14° and 9.55 g (70 mmol) of isobutyl chloroformate is added dropwise over a period of 10 min and stirring is continued at -14° to -11° for 40 min. A suspension of 8.0 g (35 mmol) of 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid, 10.5 g (35 mmol) of triethylamine and 200 ml of dichloromethane is stirred at 5° and 12.0 g (35 mmol) of chlorotrimethylsilane is added. After 1 hr at room temperature this solution is added over a period of 30 min at -12° to -14° to the mixed anhydride formed above. After 3 hrs at 0°, the solution is allowed to stir overnight at room temperature. The reaction mixture is filtered and the filtrate is stirred with 15 ml of isopropanol for 30 min. The resulting yellow precipitate is filtered, washed, and dried to give 16.6 g of 6-[4-(N,N'-bis(benzyloxycarbonyl)-L-lysylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid; mp 199°-200°, [α]D23 +24.2° (cl, DMSO).

reactant | N,N'-bis(benzyloxycarbonyl)-L-lysine | 70 mmol, 29.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C22H26N2O6
reactant | N-methylmorpholine | 70 mmol, 7.2 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 70 mmol, 9.55 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | 35 mmol, 8.0 g | NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | triethylamine | 35 mmol, 10.5 g | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 35 mmol, 12.0 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 6-[4-(N,N'-bis(benzyloxycarbonyl)-L-lysylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 16.6 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C34H34N4O8
